US07589232B2
Step c) Formation of 8-((3-cyclopentylpropanoyl){4-[(4-fluorophenyl)ethynyl]-benzyl}amino)-5,6,7,8-tetrahydro-2-naphthalenecarboxylic acid
The titled compound was prepared following the procedure F using methyl 8-((3-cyclopentylpropanoyl){4-[(4-fluorophenyl)ethynyl]benzyl}amino)-5,6,7,8-tetrahydro-2-naphthalenecarboxylate in the presence of LiOH as a white powder (87%). 1H NMR (MeOD, 300 MHz) δ 1.07 (m, 2H), 1.59-2.26 (m, 12H), 2.28 (qt, J=7.6 Hz, 1H), 2.48 (m, 1H), 2.61 (m, 1H), 2.83 (m, 2H), 4.21 (d, J=18.5 Hz, 0.6H), 4.64 (d, J=18.3 Hz, 0.4H), 4.80 (m, 1H), 5.29 (m, 0.4H) 5.95 (m, 0.6H), 7.10 (m, 3H), 7.24 (d, J=8.5 Hz, 2H), 7.38 (d, J=7.9 Hz, 1H), 7.55 (m, 3H), 7.70 (d, J=6.8 Hz, 1H), 7.80 (d, J=6.7 Hz. 1H) M− (ESI): 522.0; M+ (ESI): 524.1

reactant | methyl 8-((3-cyclopentylpropanoyl){4-[(4-fluorophenyl)ethynyl]benzyl}amino)-5,6,7,8-tetrahydro-2-naphthalenecarboxylate | C1(CCCC1)CCC(=O)N(C1CCCC=2C=CC(=CC12)C(=O)OC)CC1=CC=C(C=C1)C#CC1=CC=C(C=C1)F | C35H36FNO3
reactant | LiOH | [Li+].[OH-]
product | 8-((3-cyclopentylpropanoyl){4-[(4-fluorophenyl)ethynyl]-benzyl}amino)-5,6,7,8-tetrahydro-2-naphthalenecarboxylic acid | C1(CCCC1)CCC(=O)N(C1CCCC=2C=CC(=CC12)C(=O)O)CC1=CC=C(C=C1)C#CC1=CC=C(C=C1)F | C34H34FNO3
